US07893267B2
6.0 g (27.5 mmol) of 3,5-difluoro-2-nitro-benzoic acid methyl ester was dissolved in DMF and treated with 2.9 g (30.25 mmol) of ammonium carbonate. The reaction was heated at 60° C. for 6 h. Water was added to the reaction mixture. The solid produced was collected by filtration and washed with water to produce 3-amino-5-fluoro-2-nitro-benzoic acid methyl ester. LCMS: 215 (M+1)+.

reactant | 3,5-difluoro-2-nitro-benzoic acid methyl ester | 27.5 mmol, 6.0 g | COC(C1=C(C(=CC(=C1)F)F)[N+](=O)[O-])=O | C8H5F2NO4
reactant | ammonium carbonate | 30.25 mmol, 2.9 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | Water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-amino-5-fluoro-2-nitro-benzoic acid methyl ester | COC(C1=C(C(=CC(=C1)F)N)[N+](=O)[O-])=O | C8H7FN2O4
